US07432258B2
a) 1,1-dimethylethyl {4′-[1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-3-biphenylyl}carbamate
To a solution of N-[1-(4-bromophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide (3.28 g, 5.8 mmol) and [3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)phenyl]boronic acid (2.00 g, 8.4 mmol) in DMF (15 mL) was added Pd(dppf)Cl2 (0.24 g, 0.29 mmol) and 2N solution of Na2CO3 (11.6 mL, 23.2 mmol). The resultant mixture was stirred at 80° C. for 16 h. The mixture was filtered through a bed of celite and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (100 mL) and washed with 5% NaHCO3 (100 mL) and brine (100 mL). The organic layer was dried over MgSO4 and concentrated. The residue was dissolved in methanol, and water was added to precipitate a tan solid. The solid was collected by filtration and air dried to give 1.55 g (40%) of the title compound a tan solid. MS (ES) m/e 669 [M+H]+

reactant | N-[1-(4-bromophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 5.8 mmol, 3.28 g | BrC1=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C | C23H24BrCl2N3O4
reactant | [3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)phenyl]boronic acid | 8.4 mmol, 2.00 g | CC(C)(C)OC(=O)NC=1C=C(C=CC1)B(O)O | C11H16BNO4
reactant | Na2CO3 | 23.2 mmol, 11.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.29 mmol, 0.24 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl {4′-[1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-3-biphenylyl}carbamate | 1.55 g, 40% | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)N(C(CN2CCOCC2)C2=CC=C(C=C2)C2=CC(=CC=C2)NC(OC(C)(C)C)=O)C)C1)Cl | C34H38Cl2N4O6
